* d:\esim\an\an.cir

.include NMOS-180nm.lib
.include PMOS-180nm.lib
m1  qbar  q net-_m1-pad3_ net-_m1-pad3_ CMOSP W=0.9u L=0.18u M=1
m3 gnd  q  qbar gnd CMOSN W=0.36u L=0.18u M=1
m5 net-_m1-pad3_  qbar  q net-_m1-pad3_ CMOSP W=0.9u L=0.18u M=1
m4  q  qbar gnd gnd CMOSN W=0.36u L=0.18u M=1
m6  bl  wl  q gnd CMOSN W=0.36u L=0.18u M=1
m2  qbar  wl  blbar gnd CMOSN W=0.36u L=0.18u M=1
* u1   blbar  qbar port
v4   bl gnd pulse(1.8v 1.9v 0.5ns 1ns 1ns 10ns 5ns)
v3   q gnd pulse(0v 1.8v 0.5ns 1ns 1ns 10ns 5ns)
v1   wl gnd pulse(1.8v 1.9v 0.5ns 1ns 1ns 10ns 5ns)
v2  net-_m1-pad3_ gnd pulse(1.8v 1.9v 0.5ns 1ns 1ns 10ns 5ns)
.tran 5e-12 2.5e-09 -2.5e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
